US04064347
2,7-Bis(5-piperidinovaleryl)fluorene Dihydrochloride
By the procedure of Example 11, 2,7-bis(5-piperidinovaleryl)fluorene was prepared and dissolved in ether then treated with ethereal HCl to give the desired product which was recrystallized twice from methanolethyl acetate. M.P. 268°-270° C, λmaxEtOH 324, Elcm1% 577.8.

reactant | 2,7-bis(5-piperidinovaleryl)fluorene | N1(CCCCC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN1CCCCC1)=O | C33H44N2O2
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2,7-Bis(5-piperidinovaleryl)fluorene Dihydrochloride | Cl.Cl.N1(CCCCC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCCCN1CCCCC1)=O | InChI=1S/C33H44N2O2.2ClH/c36-32(11-3-9-21-34-17-5-1-6-18-34)26-13-15-30-28(23-26)25-29-24-27(14-16-31(29)30)33(37)12-4-10-22-35-19-7-2-8-20-35;;/h13-16,23-24H,1-12,17-22,25H2;2*1H
